Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Dilacor XR / Penicillins / Erythromycin Base / Bactrim / 
Lotensin / Prochlorperazine / Ismo / ciprofloxacin / Levaquin / 
contrast iv / nitroglycerin / nitroglycerin
 
Attending: ___
 
___ Complaint:
biliary obstruction, ?gallstone
 
Major Surgical or Invasive Procedure:
___ ERCP
 
History of Present Illness:
This is a ___ y/o female with afib on warfarin s/p PPM, HTN, 
hypothyroidism, h/p CCY c/b CBD injury requiring RNY 
choledochojejunostomy, c/b anastomotic biliary stricture s/p 
dilitation at ___, h/o CBD stone ___ s/p sphincteroplasty 
and partial removal with placement of ___ biliary drain, 
now here for an elective ERCP due to concern for recurrent 
stone.  Per patient, she recently underwent a cholangiogram 
(approx 4 weeks after the procedure in ___ and this did not 
show a stone.  However, recent imaging prior to pulling of the 
biliary drain demonstrated a possible stone, which is why she 
was referred here for further evaluation.

She underwent a single-baloon assisted ERCP today; no stones or 
filling defects were noted.  The drain was replaced.  Currently, 
the patient is comfortable with very mild, ___, crampy abd pain 
in the LUQ.  No n/v/diarrhea.  No f/c/s.  She notes her drain 
has had minimal output until today; she notes increased output 
since the procedure.

12-pt ROS otherwise negative in detail except for as noted 
above.

 
Past Medical History:
Hypothyroidism 
HTN
HLD
Afib, s/p PPM, on Coumadin
CVA/TIA with residual aphasia
s/p tonsillectomy
s/p open CCY complicated by CBD transection
s/p RNY choledochojejunostomy (___)

 
Social History:
___
Family History:
Daughter died in her ___ from MI.
Mother died from renal cancer.

 
Physical Exam:
VS: Tc 98.4, 148/80, 84, 18, 99/RA
General: well-appearing female in NAD, AO x 3
HEENT: NC/AT, PERRL, EOMI. MMM, OP clear. anicteric sclerae
Neck: supple
Chest: CTA-B, no w/r/r
CV: ___ s1 s2 normal, no m/g/r
Abd: soft, NT/ND, NABS, no HSM, +biliary drain with yellowish 
fluid output
Ext: no c/c/e, wwp
 
Pertinent Results:
___ 10:19AM   WBC-4.8 RBC-5.19 HGB-13.9 HCT-43.5 MCV-84 
MCH-26.8* MCHC-32.0 RDW-15.0
___ 10:19AM   PLT COUNT-160
___ 10:19AM   ___ PTT-32.5 ___
___ 10:19AM   LIPASE-43
___ 10:19AM   ALT(SGPT)-14 AST(SGOT)-28 ALK PHOS-128* 
AMYLASE-56 TOT BILI-0.8 DIR BILI-0.3 INDIR BIL-0.5
___ 10:19AM   GLUCOSE-94 UREA N-14 CREAT-0.8 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-24 ANION GAP-17

___ ERCP:
Normal mucosa in the esophagus 
Normal mucosa in the stomach 
After the ___ team pulled the drain back, surgical anatomy 
consistent with a choledochojejunostomy was seen 
fluoroscopically and endoscopically. 
The right and left hepatic ducts were directly imaged 
endoscopically. Direct cholangioscopy was performed with the 
enteroscope.   
Cholangiogram images selectively obtained using balloon pressure 
cholangiogram of the right anterior/posterior ducts and both 
left hepatic ducts. On fluoroscopy the intrahepatics were mildly 
dilated. There were no filling defects in the right/left 
hepatics ducts, common hepatic duct, or at the bilio-enteric 
anastomosis. 
After imaging, the drain was replaced by ___ with endoscopic 
confirmation of the distal part of the drain in the bowel. 
Dr ___ Dr ___ the acquisition and 
interpretation of the fluoroscopic images. The image quality was 
good.   
Balloon sweeps were performed of all the visualized ducts and no 
stones or sludge removed.  
An impacted stone in a ___ order branch cannot be completly 
excluded however this is not seen on cholangiography and thus 
would not be endoscopically removable. 
 
Brief Hospital Course:
___ yoF with h/o Afib on coumadin s/p PPM, HTN, hypothyroidism 
and h/o CCY with CBD injury requiring RNY choledochojejunostomy, 
c/b biliary stricture and CBD stone with placement of ___ 
biliary drain.  She is now s/p ERCP with no stones noted and 
replacement of her biliary drain.

# Bile duct obstruction: She underwent ERCP on ___ without 
complication.  She was not noted to have any CBD stones or 
filling defects on cholangiogram.  Her bile ducts were mildly 
dilated.  She then underwent replacement of her biliary drain by 
___.  She was kept on clears after the procedure overnight and 
then advanced to a regular diet without complication.  She was 
given a 5 day course of cipro for prophylaxis.  She should 
follow up as previously planned with her outside providers.

# Atrial fibrillation, s/p PPM: Her coumadin had been held prior 
to the procedure and was restarted the day after the procedure 
at 2.5mg given her concurrent use of cipro.  She was continued 
on her home metoprolol and diltiazem.

# HTN: Continued home meds

# Hypothyroidism: Continued levothyroxine

TRANSITIONAL ISSUES:
- Should have INR rechecked in several days.  Discussed this 
with her PCP who will arrange follow-up
- Follow-up with outside GI and ___ for management of biliary 
drain
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Diltiazem Extended-Release 120 mg PO DAILY 
hold for sbp<100 and hr<60 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Omeprazole 40 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Metoprolol Tartrate 75 mg PO BID 
hold for sbp<100 and hr<60 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Diltiazem Extended-Release 120 mg PO DAILY 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. Metoprolol Tartrate 75 mg PO BID 
5. Omeprazole 40 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Warfarin 2.5 mg PO DAILY16 
8. Ciprofloxacin HCl 500 mg PO Q12H Duration: 4 Days 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice daily Disp 
#*8 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Biliary obstruction
Atrial fibrillation
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___.  You were 
admitted to the hospital after ERCP.  You were restarted on a 
regular diet which you tolerated well.  You should follow-up as 
previously planned with your gastroenterologist, interventional 
radiology, and primary care doctor.
 
Followup Instructions:
___